US05716971
To a solution of 2-bromopyridine (5.75 g) in THF (125 ml) was added, under argon atmosphere at -78° C., a 1.6M n-butyl lithium hexane solution (40.0 ml). The mixture was stirred for 15 minutes at the same temperature. To the reaction mixture was added a solution of 5-bromosalicylaldehyde (3.65 g) in THF (20 ml), which was stirred for 20 minutes at the same temperature, then for further 15 minutes while warming up to room temperature. The reaction mixture was poured into 3N HCl, which was washed with diethyl ether, followed by rendering the pH to alkaline side with the addition of 3N sodium hydroxide. The resultant was washed with diethyl ether, followed by being acidified to about pH 5 with 3N HCl. The weakly acodofoed reaction mixture was subjected to extraction with ethyl acetate, washed with water, dried (anhydrous sodium sulfate), and concentrated to dryness to give 5-bromo-2-hydroxy-α-(2-pyridyl)benzyl alcohol (3.50 g) (Compound D-1), whose phisical properties and spectrum data are shown in Table 13 and Table 14.

reactant | 2-bromopyridine | 5.75 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | n-butyl lithium hexane | 1.6M, 40.0 ml | CCCCCC.C(CCC)[Li]
reactant | 5-bromosalicylaldehyde | 3.65 g | BrC1=CC=C(C(C=O)=C1)O | C7H5BrO2
reactant | HCl | 3N | Cl | ClH
solvent | THF | 125 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 5-bromo-2-hydroxy-α-(2-pyridyl)benzyl alcohol | 3.50 g | BrC=1C=CC(=C(C(C2=NC=CC=C2)O)C1)O | C12H10BrNO2
